M1 (net014 VIN1 VSS VSS) nmos4
M3 (VOUT1 VIN1 VSS VSS) nmos4
M11 (VOUT1 net014 VDD VDD) pmos4
M10 (net014 net014 VDD VDD) pmos4
C2 (VOUT1 VSS) capacitor